US06034055
17i N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide.
from N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide and N-tert-butyloxycarbonyl-L-alanyl-L-alanine. Yield 75%. [α]D =+17.9° (c=0.96, dichloromethane).

reactant | N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide | N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C45H87N3O6
reactant | N-tert-butyloxycarbonyl-L-alanyl-L-alanine | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C11H20N2O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(N-tert-Butyloxycarbonyl-L-alanyl-L-alanyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide | Yield 75% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C56H105N5O10
